US07517884B2
4-|3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo|3.3.1|nonane-9-sulfonyl|-indan-2-carboxylic acid methyl ester: A mixture of 3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane (60 mg, 0.21 mmol), 4-chlorosulfonyl-indan-2(R,S)-carboxylic acid methyl ester (120 mg, 0.44 mmol), potassium carbonate (200 mg, 1.4 mmol), and acetonitrile (3 mL) were heated at 50° C. for 2 h. The mixture was filtered through Celite, concentrated, and purified by silica gel chromatography (9:1→4:1; hexanes:ethyl acetate) to give 4-[3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-sulfonyl]-indan-2-carboxylic acid methyl ester: MS (ESI): 525.5 (M+H).

reactant | indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC=C2C1 | C11H12O2
reactant | 3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane | 0.21 mmol, 60 mg | FC(OC1=CC=C(C=C1)N1CC2CCCC(C1)N2)(F)F | C14H17F3N2O
reactant | 4-chlorosulfonyl-indan-2(R,S)-carboxylic acid methyl ester | 0.44 mmol, 120 mg | COC(=O)C1CC2=CC=CC(=C2C1)S(=O)(=O)Cl | C11H11ClO4S
reactant | potassium carbonate | 1.4 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 4-[3-(4-trifluoromethoxy-phenyl)-3,9-diaza-bicyclo[3.3.1]nonane-9-sulfonyl]-indan-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC(=C2C1)S(=O)(=O)N1C2CN(CC1CCC2)C2=CC=C(C=C2)OC(F)(F)F | C25H27F3N2O5S
